US06232471B1
A 1-L three neck-round-bottom flask equipped with a mechanical stirrer, thermometer, reflux condenser, Dean Stark trap and nitrogen bubbler was charged with 53.3 g (0.250 mol) of 2-benzenesulfonyl-N-methyl acetamide, 64 g (0.263 mol) of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzaldehyde hemihydrate, 5 mL (0.045 mol) of 1-methylpiperazine, and 500 mL of toluene. The mixture was refluxed for 70 h. The heating mantel was removed and crystallization was allowed to proceed. After 250 mL of hexane was added to the mixture, the suspension was cooled to 5° C. for 1 h, then filtered. The filter cake was first washed with 3×80 mL of 3:2 toluene: hexane, followed by 100 mL of petroleum ether. The off-white solid material was dried at 55° C. under high vacuum for 4 h to afford 96.2 g of crude (II), 2-(benzenesulfonyl)-3-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-N-methylacrylamide, 97% purity by HPLC.

reactant | 2-benzenesulfonyl-N-methyl acetamide | 0.250 mol, 53.3 g | C1(=CC=CC=C1)S(=O)(=O)CC(=O)NC | C9H11NO3S
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzaldehyde hemihydrate | 0.263 mol, 64 g | O.CC(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C.CC(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C
reactant | 1-methylpiperazine | 0.045 mol, 5 mL | CN1CCNCC1 | C5H12N2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(benzenesulfonyl)-3-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-N-methylacrylamide | C1(=CC=CC=C1)S(=O)(=O)C(C(=O)NC)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C24H31NO4S
